US09079866B2
5-[3-Fluoro-2′-(pyrimidin-2-ylsulfanyl)biphenyl-4-yl]pyrimidin-2-amine hydrochloride
The title compound was prepared using analogous conditions to those described in Example 213 utilizing 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol and 2-chloropyrimidine. MS (ESI): mass calcd. for C20H14FN5S, 375.10; m/z found, 375.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.66 (s, 2H), 8.56 (d, J=4.9, 2H), 7.79-7.73 (m, 1H), 7.63-7.56 (m, 2H), 7.55-7.48 (m, 2H), 7.33-7.24 (m, 2H), 7.21 (m, 1H), 6.23 (s, 2H).

reactant | 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S)F | C16H12FN3S
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 5-[3-Fluoro-2′-(pyrimidin-2-ylsulfanyl)biphenyl-4-yl]pyrimidin-2-amine hydrochloride | Cl.FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)SC1=NC=CC=N1 | InChI=1S/C20H14FN5S.ClH/c21-17-10-13(6-7-15(17)14-11-25-19(22)26-12-14)16-4-1-2-5-18(16)27-20-23-8-3-9-24-20;/h1-12H,(H2,22,25,26);1H
